US05114977
With cooling, a solution of 4.2 g of potassium tert-butoxide in 20 ml of anhydrous dimethyl sulfoxide is added to a solution of a 8 g of 4-(2,4-difluorophenoxy)phenol in 20 ml of anhydrous dimethyl sulfoxide and 0.3 g of finely powdered potassium iodide. With stirring, a solution of 4,4 g of 1-chloro-4-pentine in 5 ml of dimethyl sulfoxide is added dropwise at 10°-15° C. to the above mixture. After 2 hours the reaction mixture is warmed to room temperature (20°-23° C.) and stirred for 24 hours at this temperature. The reaction mixture is then poured into ice-water and extracted repeatedly with a 1:2 mixture of diethyl ether/hexane. The combined organic phases are washed until neutral with cold 10% aqueous sodium hyroxide and then with water and dried over sodium sulfate. The solvent is removed by vacuum distillation and the residue is further purified by chromatography over silica gel 60 (eluant: 1:9 mixture of diethyl ether/n-hexane), affording the pure 1-[4-(2,4-difluorophenoxy)-phenoxy]-4-pentine with a refractive index nD22 =1.5392.

reactant | potassium tert-butoxide | 4.2 g | CC(C)([O-])C.[K+]
reactant | 4-(2,4-difluorophenoxy)phenol | 8 g | FC1=C(OC2=CC=C(C=C2)O)C=CC(=C1)F | C12H8F2O2
reactant | potassium iodide | [I-].[K+]
reactant | 1-chloro-4-pentine | 4,4 g | ClCCCC#C | C5H7Cl
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 1-[4-(2,4-difluorophenoxy)-phenoxy]-4-pentine | FC1=C(OC2=CC=C(OCCCC#C)C=C2)C=CC(=C1)F | C17H14F2O2
